US08466289B2
Synthesis of Intermediate potassium 3-(benzyloxy)cyclobutane-1-sulfonate (I-25b)
KSCN (68 mg, 0.66 mmol) and butyl 3-(benzyloxy)cyclobutane-1-sulfonate (0.18 g, 0.604 mmol) in DME-water mixture (1:1 ratio, 4 mL) were heated at 85° C. overnight. The reaction was monitored by TLC (50% ethyl acetate in hexane). The reaction mass was concentrated under reduced pressure and the crude residue obtained was washed with ether to afford 0.11 g of the product (70% yield).

reactant | KSCN | 0.66 mmol, 68 mg | C(#N)[S-].[K+]
reactant | butyl 3-(benzyloxy)cyclobutane-1-sulfonate | 0.604 mmol, 0.18 g | C(C1=CC=CC=C1)OC1CC(C1)S(=O)(=O)OCCCC | C15H22O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DME water | 4 mL | COCCOC.O
solvent | hexane | CCCCCC | C6H14
product | potassium 3-(benzyloxy)cyclobutane-1-sulfonate | 0.11 g, 70% yield | C(C1=CC=CC=C1)OC1CC(C1)S(=O)(=O)[O-].[K+] | InChI=1S/C11H14O4S.K/c12-16(13,14)11-6-10(7-11)15-8-9-4-2-1-3-5-9;/h1-5,10-11H,6-8H2,(H,12,13,14);/q;+1/p-1
